US04282242
Sodium hydride (57% dispersion in oil, 10.5 g., 0.25 mole) was placed in a flame dried flask and washed twice with dry benzene. Dry tetrahydrofuran (400 ml.) was added to the flask and the resulting slurry stirred under nitrogen. A mixture of methyl acrylate (11.3 ml., 0.128 moles) and tosylmethyl isocyanide (25 g., 0.128 moles) in 120 ml. of tetrahydrofuran was then added dropwise over 30 minutes. The reaction was exothermic and the reaction mixture refluxed during this process. After stirring for an additional hour (without external heating), the reaction mixture was cooled in an ice-water bath and water (approx. 120 ml.) added dropwise until solution resulted. The solution was allowed to warm and then extracted three times with ether. The combined ether extracts were back-washed with water and then saturated brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to yield methyl pyrrole-3-carboxylate (6.4 g., m.p. 78°-81° C., m/e 125).

reactant | Sodium hydride | 0.25 mole, 10.5 g | [H-].[Na+]
reactant | methyl acrylate | 0.128 moles, 11.3 ml | C(C=C)(=O)OC | C4H6O2
reactant | tosylmethyl isocyanide | 0.128 moles, 25 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | approx. 120 ml | O | H2O
product | methyl pyrrole-3-carboxylate | 6.4 g | N1C=C(C=C1)C(=O)OC | C6H7NO2
